US07399774B2
6-Methoxy-1-oxo-indan-2-carboxylic acid methyl ester
Combine NaH (5.4 g, 122.1 mmol), THF anhydrous (150 mL), and dimethylcarbonate (6.6 mL, 81.3 mmol). While refluxing the reaction under a nitrogen atmosphere, add dropwise 5-Methoxyindanone (3.46 g, 21.33 mmol) over one hour. After the reaction mixture refluxes for 12 hours, quench using Acetic acid and then add Ethyl acetate to the reaction mixture in a separatory funnel. Wash the organic layer several times with water and dry the organic layer over Na2SO4 followed by concentration under reduced pressure. Flash Chromatograph using 1:1 Hexanes:Ethyl acetate to afford 3.14 g, 14.3 mmol (67% yield) of the title compound: 1H NMR (500 MHz, CDCl3); 3.3-3.4 (1H, dd), 3.5-3.6 (1H, dd), 3.7-3.8 (1H, m), 3.8 (3H, s), 3.9 (3H, s), 6.8-7.0 (2H, m), 7.7-7.8 (1H, m); TLC 2:1 Hexanes:Ethyl acetate Rf:=0.4.

reactant | NaH | 122.1 mmol, 5.4 g | [H-].[Na+]
reactant | THF | 150 mL | C1CCOC1 | C4H8O
reactant | dimethylcarbonate | 81.3 mmol, 6.6 mL | COC(OC)=O | C3H6O3
reactant | 5-Methoxyindanone | 21.33 mmol, 3.46 g | COC=1C=C2CCC(C2=CC1)=O | C10H10O2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Methoxy-1-oxo-indan-2-carboxylic acid methyl ester | 14.3 mmol, 3.14 g, 67% yield | COC(=O)C1C(C2=CC(=CC=C2C1)OC)=O | C12H12O4
